US04507380
83.8 g (0.2 mol) of 1,4-diethoxy-2-hexadecanoylaminobenzene prepared from 2,5-diethoxyaniline and hexadecanoyl chloride was dissolved in 500 ml of chloroform and to the solution was added dropwise 100 g of boron tribromide at a temperature range between 5° C. and 10° C. After stirring at room temperature for 6 hours, 50 g of ice and 100 ml of water were added to the mixture and chloroform was distilled off under a reduced pressure. To the residue was added 100 ml of methanol, the resulting precipitate was collected by filtration to obtain 78 g of 2-hexadecanoylaminohydroquinone.

reactant | 1,4-diethoxy-2-hexadecanoylaminobenzene | 0.2 mol, 83.8 g | C(C)OC1=C(C=C(C=C1)OCC)NC(CCCCCCCCCCCCCCC)=O | C26H45NO3
reactant | 2,5-diethoxyaniline | C(C)OC1=C(N)C=C(C=C1)OCC | C10H15NO2
reactant | hexadecanoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | boron tribromide | 100 g | B(Br)(Br)Br | BBr3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 2-hexadecanoylaminohydroquinone | 78 g | C(CCCCCCCCCCCCCCC)(=O)NC1=C(O)C=CC(=C1)O | C22H37NO3
